2125-06-17 07:53:00 Physician Attending Progress Note
Chief Complaint: s/p total colectomy for monitoring
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77  M with hx of diverticulitis s/p sigmoid colectomy complicated by
   NSTEMI and ARF. Found to have cdiff toxic megacolon. Went for total
   colectomy with end ileostomy [**6-16**]. Tolerated surgery well.
   24 Hour Events:
 FEVER - 101.2
F - [**2125-6-17**] 12:00 AM
   Low MAPs, tachycardic. Got a lot of fluid, appx 8 L LR, because CVP was
   0. Third spacing. Started on pressors: levophed and vasopressin. U/O
   improving this am. CVP improved to 10 this am. SvO2 was 75 this am. Abx
   broadened overnight to Vanc, Zosyn and Flagyl. Switched to PS this am.
   RSBI 40 this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-16**] 08:49 PM
   Metronidazole - [**2125-6-17**] 12:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-6-17**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2125-6-17**] 01:36 AM
   Fentanyl - [**2125-6-17**] 03:19 AM
   Heparin Sodium (Prophylaxis) - [**2125-6-17**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-17**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.5
C (99.5
   HR: 107 (104 - 124) bpm
   BP: 106/57(75) {76/39(51) - 131/59(75)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
   CVP: 9 (0 - 11)mmHg
   CO/CI (Fick): (7.3 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 75 - 75
                                Total In:
                                                                 10,905 mL
                                                                  1,986 mL
   PO:
                                TF:
   IVF:
                                                                 10,905 mL
                                                                  1,986 mL
   Blood products:
   Total out:
                                                                    684 mL
                                                                    283 mL
   Urine:
                                                                    129 mL
                                                                    203 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                 10,221 mL
                                                                  1,703 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 560 (560 - 6,000) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: 7.41/37/107/22/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Well nourished, No acute distress, Intubated,
   sedated. Alert, following command, denies pain.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: 4/6 Systolic)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilaterally, not
   worse since admission), no wheezes
   Abdominal: Distended, soft, end ileostomy pink with brown stool, no BS,
   diffuse tenderness to palpation
   Extremities: Right: 1+, Left: 1+
   Labs / Radiology
   10.0 g/dL
   384 K/uL
   131 mg/dL
   1.2 mg/dL
   22 mEq/L
   5.3 mEq/L
   25 mg/dL
   105 mEq/L
   131 mEq/L
   29.3 %
   27.9 K/uL
        [image002.jpg]
                             [**2125-6-16**]  04:18 PM
                             [**2125-6-16**]  04:26 PM
                             [**2125-6-16**]  06:53 PM
                             [**2125-6-16**]  08:07 PM
                             [**2125-6-16**]  09:17 PM
                             [**2125-6-16**]  09:35 PM
                             [**2125-6-17**]  03:42 AM
                             [**2125-6-17**]  03:58 AM
   WBC
   22.6
   27.9
   Hct
   35.1
   33.7
   29.3
   Plt
   514
   384
   Cr
   0.8
   1.0
   1.2
   TCO2
   25
   24
   24
   24
   Glucose
   98
   117
   131
   Other labs: PT / PTT / INR:16.3/33.1/1.5, Lactic Acid:1.1 mmol/L,
   Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   UA: no e/o infection
   Micro: NGTD
   CXR: Mild pulm edema, worse than yesterday
   Assessment and Plan
   77 y/o M s/p total colectomy s/p end ileostomy for toxic megacolon from
   cdiff colitis. Past hx significant for recent NSTEMI, AS 0.8 area.
   Developed hypotension with fever overnight requiring massive fluid
   resuscitation and pressors. HD improved since then.
   #Hypotension/fluid shifts:
   Likely due to infection and likely inflammatory response post surgery.
   Pressor requirements improved overnight after fluid resuscitation and
   broad spectrum antibiotics.
   CVP improved from 0 to 10 this am, keep [**9-4**]
   Follow U/o and attempt to keep > 30 cc/hr
   F/u creatinine
   # Resp Failure:
   - Very comfortable on PS 5/5 this am.  ABG 7.40/40/123
   - Crackles may be due to [**Doctor Last Name 2**] or fluid overload, CVP 10, follow closely
   -  Keep intubated on PS till pressor requirement improves and pain is
   better controlled. Likely extubation in AM
   - once extubated, will need close observation as at increased risk for
   CHF
   - Increase fentanyl and wean versed to keep pain minimal and as awake
   as possible
   # Pain:
   - start PCA pump
   # ID:
   - Broaded to Vanc, Zosyn, Flagyl overnight.
   Pancultured, all neg so far
   Continue for now
   # CAD, AS, recent NSTEMI:
   - Hold ASA - Add betablocker when BP improves - Restart statin when
   able to take pos
   ICU Care
   Nutrition: NPO
   Glycemic Control:  riss
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   18 Gauge - [**2125-6-16**] 05:00 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU
   Total time spent:

2125-06-17 08:06:00 Physician Resident Progress Note
Chief Complaint: Total colectomy
   24 Hour Events:
 ARTERIAL LINE - START [**2125-6-16**] 04:37 PM
 MULTI LUMEN - START [**2125-6-16**] 04:55 PM
 PICC LINE - START [**2125-6-16**] 04:59 PM
 FEVER - 101.2
F - [**2125-6-17**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-16**] 08:49 PM
   Metronidazole - [**2125-6-17**] 12:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-6-17**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2125-6-17**] 01:36 AM
   Fentanyl - [**2125-6-17**] 03:19 AM
   Heparin Sodium (Prophylaxis) - [**2125-6-17**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-17**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.5
C (99.5
   HR: 107 (104 - 124) bpm
   BP: 106/57(75) {76/39(51) - 131/59(75)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
    CVP: 9 (0 - 11)mmHg
   CO/CI (Fick): (7.3 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                 10,905 mL
                                                                  1,990 mL
   PO:
   TF:
   IVF:
                                                                 10,905 mL
                                                                  1,990 mL
   Blood products:
   Total out:
                                                                    684 mL
                                                                    283 mL
   Urine:
                                                                    129 mL
                                                                    203 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 10,221 mL
                                                                  1,707 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 560 (560 - 6,000) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: 7.41/37/107/22/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Distended, bs absent
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   384 K/uL
   10.0 g/dL
   131 mg/dL
   1.2 mg/dL
   22 mEq/L
   5.3 mEq/L
   25 mg/dL
   105 mEq/L
   131 mEq/L
   29.3 %
   27.9 K/uL
        [image002.jpg]
                             [**2125-6-16**]  04:18 PM
                             [**2125-6-16**]  04:26 PM
                             [**2125-6-16**]  06:53 PM
                             [**2125-6-16**]  08:07 PM
                             [**2125-6-16**]  09:17 PM
                             [**2125-6-16**]  09:35 PM
                             [**2125-6-17**]  03:42 AM
                             [**2125-6-17**]  03:58 AM
   WBC
   22.6
   27.9
   Hct
   35.1
   33.7
   29.3
   Plt
   514
   384
   Cr
   0.8
   1.0
   1.2
   TCO2
   25
   24
   24
   24
   Glucose
   98
   117
   131
   Other labs: PT / PTT / INR:16.3/33.1/1.5, Lactic Acid:1.1 mmol/L,
   Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: cxr
   Microbiology: ngtd
   Assessment and Plan
   77 y/o M with recent sigmoid colectomy [**2125-5-25**] in setting recurrent
   diverticulitis post op course c/b NSTEMI, ARF now admitted [**6-4**] with
   abdominal pain found to have pancolitis on CT scan of pelvis and
   subsequent clostridium difficile toxin A and B positive which has been
   difficult to manage on PO vancomycin with increasing large bowel
   distension concerning for toxic megacolon requiring surgical
   intervention [**2125-6-16**] with total colectomy and end ileostomy.
   .
   # Post operative management
   - NPO
   - IVF with LR at 150cc/hr titrting to UOP>30cc/hr, received
   - IV abx broadened to vanco/zosyn/flagyl, pan cx, received 7.5L
   - monitor ileostomy output
   - wound care per surgical team
   .
   # Respiratory
   - ETT in good position
   - currently on PS 5/5, recheck gas and possible extubation id down t 1
   pressor
   - fentanyl/versed for sedation
   - RSBI 40
   .
   # C. diff colitis
   - IV flagyl
   - source of infection has been removed
   .
   # CAD s/p CABG
   - add back statin
   - hold off ASA/BB/ACEi for now, needs to have BB added once BP allows
   given his recent NSTEMI, ECG with no acute ST-T wave changes
   - IVF for now given post op, apparently volume overloaded prior to
   surgery, will likely require diuresis after 3rd spaced fluids mobilize
   .
   # Severe AS
   - monitor [**Last Name (un) 9**] status carefully given risk to go into flash pulmonary
   edema once his fluids mobilize
   .
   # FEN
   - NPO
   - IVF with LR at 125cc/hr
   - replete lytes
   .
   # ICU PPX
   - ACCESS: RIJ, a-line
   - VAP: chlorhexidine, elevate HOB, sedation breaks, daily RSBI
   - Ulcer: PPI
   - DVT: sq heparin
   - Glucose- SSI
   .
   # FULL CODE
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   18 Gauge - [**2125-6-16**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   35 min of Critical care time spent with this patient

2125-06-18 07:42:00 Physician Resident Progress Note
Chief Complaint: 77 y/o M with recent sigmoid colectomy [**2125-5-25**] in
   setting recurrent diverticulitis post op course c/b NSTEMI, ARF now
   admitted [**6-4**] with abdominal pain found to have pancolitis on CT scan
   of pelvis and subsequent clostridium difficile toxin A and B positive
   which has been difficult to manage on PO vancomycin with increasing
   large bowel distension concerning for toxic megacolon requiring
   surgical intervention [**2125-6-16**] with total colectomy and end ileostomy.
   24 Hour Events:
   - Did not extubate as still on pressors in PM.
   - Having frequent PAC's on tele and on 12 lead - changed to
   neosynephrine from levophed, and HR/ectopy improved thereafter,
   otherwise weaning neosynephrine overnight.  Off pressors this AM.
   - UOP good throughout most of day
   - Plan for SBT this AM.
   - Transfused 1 unit PRBC's this AM for Hct of 23.0, will likely need
   2nd unit given recent NSTEMI, but given plan for extubation this AM did
   not want to overly fluid challenge.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-17**] 08:08 PM
   Metronidazole - [**2125-6-18**] 12:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-6-18**] 03:25 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2125-6-17**] 01:55 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-17**] 09:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-18**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 94 (83 - 108) bpm
   BP: 93/82(87) {93/45(62) - 119/82(87)} mmHg
   RR: 7 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 109.2 kg
   Height: 74 Inch
    CVP: 12 (8 - 251)mmHg
   Total In:
                                                                  6,393 mL
                                                                  1,542 mL
   PO:
   TF:
   IVF:
                                                                  6,393 mL
                                                                  1,542 mL
   Blood products:
   Total out:
                                                                  1,186 mL
                                                                    455 mL
   Urine:
                                                                  1,081 mL
                                                                    245 mL
   NG:
                                                                     50 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  5,207 mL
                                                                  1,087 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 910 (870 - 910) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   SpO2: 100%
   ABG: 7.34/47/124/23/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General: sedated, comfortable, intubated, arousable and able to answer
   questions
   Cardiac: Regular rhythm, normal rate, 3/6 SEM radiating to the
   carotids, obscuring S3
   Lungs: bibasilar crackles
   Abdomen: soft, non-distended, incision c/d/I, hypoactive BS, NTTP
   Extremities: No c/c/e
   Labs / Radiology
   308 K/uL
   7.6 g/dL
   83 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   21 mg/dL
   105 mEq/L
   132 mEq/L
   23.0 %
   17.1 K/uL
        [image002.jpg]
                             [**2125-6-16**]  08:07 PM
                             [**2125-6-16**]  09:17 PM
                             [**2125-6-16**]  09:35 PM
                             [**2125-6-17**]  03:42 AM
                             [**2125-6-17**]  03:58 AM
                             [**2125-6-17**]  08:36 AM
                             [**2125-6-17**]  03:45 PM
                             [**2125-6-17**]  03:46 PM
                             [**2125-6-18**]  02:40 AM
                             [**2125-6-18**]  04:56 AM
   WBC
   27.9
   17.1
   Hct
   33.7
   29.3
   23.0
   Plt
   384
   308
   Cr
   1.0
   1.2
   1.0
   0.9
   TCO2
   24
   24
   26
   25
   26
   Glucose
   117
   131
   128
   83
   Other labs: PT / PTT / INR:16.3/33.1/1.5, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: ABG: 7.34/47/124
   Microbiology: Urine, blood, and sputum [**6-16**] with NGTD
   Assessment and Plan
   77 y/o M with recent sigmoid colectomy [**2125-5-25**] in setting recurrent
   diverticulitis post op course c/b NSTEMI, ARF now admitted [**6-4**] with
   abdominal pain found to have pancolitis on CT scan of pelvis and
   subsequent clostridium difficile toxin A and B positive which has been
   difficult to manage on PO vancomycin with increasing large bowel
   distension concerning for toxic megacolon requiring surgical
   intervention [**2125-6-16**] with total colectomy and end ileostomy.
   # Hemodynamics in the setting of critical AS: Very difficult  to manage
   in the setting of critical AS.  Currently 8L positive with CVPs and UOP
   at goal, in pulmonary edema, requiring pressors to maintain MAPS.
   Having ectopy on levophed with tachycardia which caused hemodynamic
   instability, and was switched to phenylephrine overnight.   Would
   prefer to avoid alpha agonists in the setting of AS
   -cardiology consult re: appropriate pressor in this setting- Possibly
   dobutamine to avoid alpha agonism?
   -continue current pressor management for now as he is hemodynamically
   stable with excellent oxygenation
   -Holding fluids as he is volume overloaded, will closely  monitor UOP
   and CVP using these as our parameters (>30cc/hr and [**9-4**] respectively)
   # Post operative management
   -Holding IVF for now as he is in pulmonary edema,
   -d/c all abx except for flagyl as he has completed 24hrs
   - pain control- will increase fentanyl gtt and decrease versed with
   plans to switch over to PCA
   - monitor ileostomy output
   - wound care per surgical team
   # Respiratory: currently on PSV 5/5 with recent gas 7.34/47/124, RISBI
   14, RR only 7 today
   -Will add a manditory RR
   -oxygenation and ventilation excellent despite pulmonary edema.
   -Closely monitor ABGs and change prn
   # C. diff colitis
   - IV flagyl
   # CAD s/p CABG
   - statin when taking POs
   - hold off ASA/BB/ACEi for now, needs to have BB added once BP allows
   given his recent NSTEMI, ECG with no acute ST-T wave changes
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   18 Gauge - [**2125-6-16**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2125-06-18 07:54:00 Physician Attending Progress Note
Chief Complaint: s/p total colectomy for monitoring
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77  M with hx of diverticulitis s/p sigmoid colectomy complicated by
   NSTEMI and ARF. Found to have cdiff toxic megacolon. Went for total
   colectomy with end ileostomy [**6-16**]. Tolerated surgery well. Developed
   SIRS vs infection post op.
   24 Hour Events:
 EKG - At [**2125-6-17**] 04:05 PM
   Dropped MAPs with Levophed and Vasopressin weans yesterday. Got fluid
   for resuscitation and maintained good CVP and UO. Was getting PACs with
   runs and  tachycardia on Levophed and Vasopressin in the setting of a
   recent MI. D/w surgery and switched to neosynephrine. Was getting
   fluids continuously to keep up CVP and UO. HR and arrythmia improved on
   neosynephrine. EKG with PACs but no signs of ischemia. CXR shows
   pulmonary edema. Cardiology consult requested for HD management.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-17**] 08:08 PM
   Metronidazole - [**2125-6-18**] 12:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-6-18**] 03:25 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2125-6-17**] 01:55 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-17**] 09:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-18**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 94 (83 - 108) bpm
   BP: 93/82(87) {93/45(62) - 119/82(87)} mmHg
   RR: 7 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 109.2 kg
   Height: 74 Inch
   CVP: 12 (8 - 25)mmHg
   Total In:
                                                                  6,393 mL
                                                                  1,597 mL
   PO:
   TF:
   IVF:
                                                                  6,393 mL
                                                                  1,597 mL
   Blood products:
   Total out:
                                                                  1,186 mL
                                                                    455 mL
   Urine:
                                                                  1,081 mL
                                                                    245 mL
   NG:
                                                                     50 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  5,207 mL
                                                                  1,142 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 910 (870 - 910) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   SpO2: 100%
   ABG: 7.34/47/124/23/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, No acute distress, Intubated,
   sedated. Diffuse edema
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: 4/6 Systolic)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilaterally, not
   worse since admission), no wheezes
   Abdominal: Distended, soft, end ileostomy pink with brown stool, no BS,
   diffuse tenderness to palpation
   Extremities: Right: 1+, Left: 1+
   Labs / Radiology
   7.6 g/dL
   308 K/uL
   83 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   21 mg/dL
   105 mEq/L
   132 mEq/L
   23.0 %
   17.1 K/uL
        [image002.jpg]
                             [**2125-6-16**]  08:07 PM
                             [**2125-6-16**]  09:17 PM
                             [**2125-6-16**]  09:35 PM
                             [**2125-6-17**]  03:42 AM
                             [**2125-6-17**]  03:58 AM
                             [**2125-6-17**]  08:36 AM
                             [**2125-6-17**]  03:45 PM
                             [**2125-6-17**]  03:46 PM
                             [**2125-6-18**]  02:40 AM
                             [**2125-6-18**]  04:56 AM
   WBC
   27.9
   17.1
   Hct
   33.7
   29.3
   23.0
   Plt
   384
   308
   Cr
   1.0
   1.2
   1.0
   0.9
   TCO2
   24
   24
   26
   25
   26
   Glucose
   117
   131
   128
   83
   Other labs: PT / PTT / INR:16.3/33.1/1.5, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   CXR: Pulm edema R > L
   Micro: ngtd from blood, urine, sputum
   Assessment and Plan
   77 y/o M s/p total colectomy s/p end ileostomy for toxic megacolon from
   cdiff colitis. Past hx significant for recent NSTEMI, AS 0.8 area.
   Developed hypotension with fever overnight after sx requiring massive
   fluid resuscitation and pressors. Developed pulmonary edema in the
   setting of known critical AS.
   #1. Hypotension/fluid shifts:
   Likely due to infection and likely inflammatory response post abdominal
   surgery and was aggressively volume resuscitated.
   Pressor requirements improved after fluid resuscitation and broad
   spectrum antibiotics. However, last evening had persistent need for low
   dose Levophed and was having runs PACs with apparent hemodyanamic
   effect so decision was made to switch to low dose Neosynephrine for a
   few hours which was
   CXR with pulm edema this am, however stable on the vent with good
   oxygenation pn FIO2 0.4, PEEP 5 and PIP low 20
   Mixed venous 79% so unlikely to be acute decompensated heart failure.
   It is possible that he is volume overload and overdistened so
   reasonable to try to get him 1L negative with Lasixx gtts and assess
   impact on hemodynamics but I would not push more aggressively than this
   right now.
   CVP 8
 12, Watch U/O,  keep > 30 cc/hr.
   #2. Resp Failure: ON AC stable setting good rsboi, hold off on
   aggressive weaning while sorting out hemodynamics but may be able to
   PSV again this afternoon late evening.
   -  CXR wet, but oxygenating and ventilating wet.
   - [**Month (only) 11**] have some underlying [**Doctor Last Name **] due to abdominal surgery.
   #3. ID:
   -          Broaded to Vanc, Zosyn, Flagyl due to fever/hypotension.
   -          All cxs neg so far.
   -          D/c after 72 hrs if Cxs neg (except flagyl if cdiff neg)
   #4. CAD, AS, recent NSTEMI:
   - Hold ASA - Add beta blocker when BP improves - Restart statin when
   able to take pos. Keep MAP > 65 to sustain coronary perfusion.
   Cardiology consulted
   ICU Care
   Nutrition: NPO, TPN consult
   Glycemic Control:  riss
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   18 Gauge - [**2125-6-16**] 05:00 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP: ppx
   Communication:  Case discussed for over 60 minutes with surgical Attg
   Dr [**Last Name (STitle) 12**], cardiology consults and medical housestaff beyond rounds for
   over 60 minutes
   Code status: Full
   Disposition : ICU
   Total time spent: 90

2125-06-19 07:21:00 Physician Resident Progress Note
Chief Complaint: intubated and sedated
   24 Hour Events:
   -Cardiology was consulted for help with pressors, they recommended
   levophed with lasix gtt.  Patient started on lasix gtt however at At
   1AM, CVP dropped to 7 and lasix was d/ced for the remainder of the
   night. MAPs stayed stable.
   -Has been off the levophed since 10PM with MAPs at goal.
   -UOP has been decreasing, last hour 20cc, surgery would like us to
   restart the lasix gtt however ---total I/Os approximately even over
   last 24 hrs
   -Started TPN as the patient has been NPO for a long time and has a low
   albumin likely contributing to his edema.  Got a pre-mixed standard
   over ~18hrs
   -12 hour rule out with cardiac enzymes negative
   -PM HCT came back 22, surgery did not want any transfusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-18**] 08:00 PM
   Metronidazole - [**2125-6-19**] 12:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-6-19**] 03:27 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-6-18**] 09:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-19**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 81 (81 - 101) bpm
   BP: 104/52(70) {89/41(60) - 117/75(90)} mmHg
   RR: 15 (7 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 109.2 kg
   Height: 74 Inch
    CVP: 12 (6 - 13)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  3,738 mL
                                                                    652 mL
   PO:
   TF:
   IVF:
                                                                  3,470 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  3,380 mL
                                                                  1,417 mL
   Urine:
                                                                  3,150 mL
                                                                  1,097 mL
   NG:
                                                                    200 mL
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    358 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 737 (737 - 737) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.38/49/124/27/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No acute distress, intubated and sedated
   Eyes / Conjunctiva: PERRL, +scleral edema
   Head, Ears, Nose, Throat: Normocephalic, OP moist
   Cardiovascular: (S2: Normal), (Murmur: Systolic), distant sounds
   Chest: CTA anteriorly, transmitted ET sounds
   Abd: distended, firm, no BS heard, ostomy bag c/d/I
brown drainage
   Ext: diffuse 3+ edema upper ext>lower, ++scrotal edema
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  moist
   Neurologic: sedated, not arousing to voice, gentle rub
   Labs / Radiology
   280 K/uL
   7.6 g/dL
   104 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   134 mEq/L
   22.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2125-6-17**]  08:36 AM
                             [**2125-6-17**]  03:45 PM
                             [**2125-6-17**]  03:46 PM
                             [**2125-6-18**]  02:40 AM
                             [**2125-6-18**]  04:56 AM
                             [**2125-6-18**]  11:19 AM
                             [**2125-6-18**]  01:04 PM
                             [**2125-6-18**]  08:18 PM
                             [**2125-6-19**]  03:52 AM
                             [**2125-6-19**]  04:00 AM
   WBC
   17.1
   9.7
   Hct
   23.0
   25.6
   22.8
   22.1
   Plt
   308
   280
   Cr
   1.0
   0.9
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   26
   25
   26
   23
   30
   Glucose
   128
   83
   90
   104
   Other labs: PT / PTT / INR:15.0/32.3/1.3, CK / CKMB /
   Troponin-T:37/3/<0.01, Differential-Neuts:92.0 %, Band:2.0 %, Lymph:4.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Ca++:7.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   77 y/o M with critical AS, recent sigmoid colectomy [**2125-5-25**] [**2-24**]
   recurrent diverticulitis post op course c/b NSTEMI, ARF, re-admitted
   [**6-4**] with abdominal pain found to have pancolitis on CT and positive
   clostridium difficile toxin A and B , subsequent increasing large bowel
   distension concerning for toxic megacolon requiring surgical resection
   [**2125-6-16**] with total colectomy and end ileostomy now with significant
   volume overload in setting of critical AS.
   # Volume Overload. In setting of AS and pulmonary edema, low BP this
   has been difficult to manage. Patient was on pressors o/n, d/ced due to
   stable MAPs. Have been attempting gentle diuresis with lasix gtt. CVP
   have been labile and as low as 7 therefore lasix gtt held in early AM.
   - continue gentle diuresis as MAP and CVP tolerate (CVP 5-8)
   - f/up cardiology recs
   - UOP and CVP golas >30cc/hr and [**5-31**] respectively
    # Critical AS. Patient sustained NSTEMI (CK peak 286), currently
   anemic with Hct 22.
   -          would consider blood transfusion to prevent recurrent
   ischemia and to assist with intravascular volume/limit thrid spacing
   -          gentle diuresis as above
   -          restart ASA per cards, okay with surgery
   -          f/up card recs
   # Hypotension. Currently off pressors, I/Os approximately even.
   Negative since MN. No evidence of sepsis. Currently on broad coverage
   with vanco/zosyn
   -          continue to monitor MAP, UOP, CVP in setting of diuresis
   -          restart phenylephrine as a pressor given ectopy on
   norepinephrine.
   # s/p total colectomy. Currently stable. F/up surgery recs, started TPN
   for nutrition.
   - continue IV Flagyl
   - pain control- fentanyl gtt for now, daily awakening
   - monitor ileostomy output
   - wound care per surgical team
   # Respiratory: currently on AC 500/14/5/40%. ABG this AM 7.38/49/124.
   Consider PS trial today given elevated O2.
   # C. diff colitis s/p colectomy. Cont Flagyl IV.
   - fup surgery recs
   # CAD s/p CABG
   - restart ASA
   - statin when taking POs
   - hold off BB/ACEi for now, needs to have BB added once BP allows given
   his recent NSTEMI, ECG with no acute ST-T wave changes
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-18**] 06:38 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   18 Gauge - [**2125-6-16**] 05:00 PM
   Prophylaxis:
   DVT: HepSC TID, boots
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU level of care

2125-06-20 15:52:00 Physician Resident Progress Note
Chief Complaint: C diff colitis
   24 Hour Events:
   d/c'd zosyn
   transfused 2 uPRBC
   diuresed 3 liters negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-6-20**] 04:00 AM
   Vancomycin - [**2125-6-20**] 07:51 AM
   Metronidazole - [**2125-6-20**] 08:51 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-6-19**] 08:00 PM
   Furosemide (Lasix) - [**2125-6-19**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-19**] 10:00 PM
   Fentanyl - [**2125-6-20**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-20**] 03:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 81 (75 - 84) bpm
   BP: 117/56(77) {100/44(66) - 137/81(93)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 109.2 kg
   Height: 74 Inch
    CVP: 357 (6 - 358)mmHg
   Total In:
                                                                  3,353 mL
                                                                  2,153 mL
   PO:
   TF:
   IVF:
                                                                  1,820 mL
                                                                  1,326 mL
   Blood products:
                                                                    506 mL
                                                                    169 mL
   Total out:
                                                                  6,237 mL
                                                                  5,835 mL
   Urine:
                                                                  5,857 mL
                                                                  5,670 mL
   NG:
                                                                    300 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,884 mL
                                                                 -3,682 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 563 (563 - 563) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.43/51/134/31/8
   Ve: 6.6 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), late
   peaking cres decres systolic murmur @ usb, high pitched
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   7.6 g/dL
   136 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   20 mg/dL
   99 mEq/L
   136 mEq/L
   30.0 %
   9.7 K/uL
         [image002.jpg]
                             [**2125-6-18**]  01:04 PM
                             [**2125-6-18**]  08:18 PM
                             [**2125-6-19**]  03:52 AM
                             [**2125-6-19**]  04:00 AM
                             [**2125-6-19**]  03:13 PM
                             [**2125-6-19**]  11:46 PM
                             [**2125-6-20**]  03:09 AM
                             [**2125-6-20**]  04:03 AM
                             [**2125-6-20**]  04:37 AM
                             [**2125-6-20**]  11:51 AM
   WBC
   9.7
   Hct
   22.8
   22.1
   23.3
   30.0
   Plt
   280
   Cr
   0.9
   0.8
   0.8
   0.9
   0.8
   TropT
   <0.01
   TCO2
   23
   30
   35
   Glucose
   90
   104
   137
   117
   136
   Other labs: PT / PTT / INR:13.7/28.8/1.2, CK / CKMB /
   Troponin-T:37/3/<0.01, Differential-Neuts:92.0 %, Band:2.0 %, Lymph:4.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   77 y/o M with critical AS, recent sigmoid colectomy [**2125-5-25**] [**2-24**]
   recurrent diverticulitis post op course c/b NSTEMI, ARF, re-admitted
   [**6-4**] with abdominal pain found to have pancolitis on CT and positive
   clostridium difficile toxin A and B , subsequent increasing large bowel
   distension concerning for toxic megacolon requiring [**Month/Year (2) 16**] resection
   [**2125-6-16**] with total colectomy and end ileostomy now being diursed for
   volume overload in setting of severe  AS.
   .
    # Volume Overload. - patient continues to diurese very well, roughly 3
   liters per day
   -continue lasix drip, now at 2mg / hr, goal I/O negative 2-3 liters.
   -AS is severe, valve area <0.8
   - continue gentle diuresis as MAP and CVP tolerate (CVP 5-8)
   - f/up cardiology recs
   - UOP and CVP golas >30cc/hr and [**5-31**] respectively
    .
    # severe AS. Patient sustained NSTEMI (CK peak 286), currently anemic
   with Hct 22.
   -          would consider blood transfusion to prevent recurrent
   ischemia and to assist with intravascular volume/limit thrid spacing
   -          gentle diuresis as above
   -          restart ASA per cards, okay with surgery
   -          f/up card recs
   .
   # s/p total colectomy. POD # 3.  Currently stable. F/up surgery recs,
   started TPN for nutrition.
   - continue IV Flagyl
   - pain control- fentanyl gtt for now, daily awakening
   - monitor ileostomy output
   - wound care per [**Month/Day (3) 16**] team, slight erythema and mild oozing of
   inferior pole of [**Month/Day (3) 16**] wound, discuss with surgery
    .
   # Respiratory: on CMV FiO2 40%, TV 500, RR 14, PEEP 5.
   -wean sedation with hopes of evaluating mental status further prior to
   plan for extubation
   # C. diff colitis s/p colectomy. Cont Flagyl IV.
   - fup surgery recs
   # CAD s/p CABG
   - ASA
   - statin when taking POs
   - start a beta blocker when patient's BPs are consistently no longer
   low.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-19**] 03:00 PM 41.[**Telephone/Fax (3) 17**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   18 Gauge - [**2125-6-16**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-06-21 07:27:00 Physician Resident Progress Note
Chief Complaint: s/p colectomy for c diff colitis, POD # 4
   24 Hour Events:
   per surgery wound not too concerning for infection / dehis at this
   time.
   patient failed spontaneous breathing trial this a.m.- 5 breaths per
   minute
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-6-20**] 04:00 AM
   Vancomycin - [**2125-6-20**] 08:00 PM
   Metronidazole - [**2125-6-21**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-6-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-20**] 10:00 PM
   Midazolam (Versed) - [**2125-6-21**] 02:35 AM
   Fentanyl - [**2125-6-21**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answerPain location: patient complains of pain, able to
   answer yes/no questions, pain in abd area
   Flowsheet Data as of  [**2125-6-21**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 94 (75 - 94) bpm
   BP: 120/65(87) {100/49(68) - 185/86(123)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 109.2 kg
   Height: 74 Inch
    CVP: 8 (6 - 358)mmHg
   Total In:
                                                                  3,172 mL
                                                                    793 mL
   PO:
   TF:
   IVF:
                                                                  1,876 mL
                                                                    360 mL
   Blood products:
                                                                    169 mL
   Total out:
                                                                  6,965 mL
                                                                  1,235 mL
   Urine:
                                                                  6,800 mL
                                                                  1,070 mL
   NG:
                                                                     75 mL
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,793 mL
                                                                   -442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 313 (313 - 563) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), mid
   peaking crescendo / decrescendo murmur @ usb, high pitched, radiates to
   carotids
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: tender around wound site and near ostomy
   but not elsewhere, moderate abd distention
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   345 K/uL
   10.7 g/dL
   150 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.1 mEq/L
   19 mg/dL
   99 mEq/L
   135 mEq/L
   31.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2125-6-19**]  03:52 AM
                             [**2125-6-19**]  04:00 AM
                             [**2125-6-19**]  03:13 PM
                             [**2125-6-19**]  11:46 PM
                             [**2125-6-20**]  03:09 AM
                             [**2125-6-20**]  04:03 AM
                             [**2125-6-20**]  04:37 AM
                             [**2125-6-20**]  11:51 AM
                             [**2125-6-20**]  09:23 PM
                             [**2125-6-21**]  04:20 AM
   WBC
   9.7
   7.2
   8.0
   Hct
   22.1
   23.3
   30.0
   28.8
   31.1
   Plt
   280
   356
   345
   Cr
   0.8
   0.8
   0.9
   0.8
   0.8
   0.7
   TCO2
   30
   35
   Glucose
   104
   137
   117
   136
   141
   150
   Other labs: PT / PTT / INR:13.7/28.8/1.2, CK / CKMB /
   Troponin-T:37/3/<0.01, Differential-Neuts:92.0 %, Band:2.0 %, Lymph:4.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:1.6 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 y/o M with critical AS, recent sigmoid colectomy [**2125-5-25**] [**2-24**]
   recurrent diverticulitis post op course c/b NSTEMI, ARF, re-admitted
   [**6-4**] with abdominal pain found to have pancolitis on CT and positive
   clostridium difficile toxin A and B , subsequent increasing large bowel
   distension concerning for toxic megacolon requiring [**Month/Year (2) 16**] resection
   [**2125-6-16**] with total colectomy and end ileostomy now being diursed for
   volume overload in setting of severe  AS.
   .
    # Volume Overload. - patient continues to diurese very well, roughly 3
   liters per day
   -continue lasix drip, now at 2mg / hr, goal I/O negative 2-3 liters.
   -AS is severe, valve area <0.8
   - continue gentle diuresis as MAP and CVP tolerate (CVP 5-8)
   - f/up cardiology recs
   - UOP and CVP golas >30cc/hr and [**5-31**] respectively
    .
    # severe AS. Patient sustained NSTEMI (CK peak 286), currently anemic
   with Hct 22.
   -          would consider blood transfusion to prevent recurrent
   ischemia and to assist with intravascular volume/limit thrid spacing
   -          gentle diuresis as above
   -          restart ASA per cards, okay with surgery
   -          f/up card recs
   .
   # s/p total colectomy. POD # 3.  Currently stable. F/up surgery recs,
   started TPN for nutrition.
   - continue IV Flagyl
   - pain control- fentanyl gtt for now, daily awakening
   - monitor ileostomy output
   - wound care per [**Month/Day (3) 16**] team, slight erythema and mild oozing of
   inferior pole of [**Month/Day (3) 16**] wound, discuss with surgery
    .
   # Respiratory: on CMV FiO2 40%, TV 500, RR 14, PEEP 5.
   -wean sedation with hopes of evaluating mental status further prior to
   plan for extubation
   # C. diff colitis s/p colectomy. Cont Flagyl IV.
   - fup surgery recs
   # CAD s/p CABG
   - ASA
   - statin when taking POs
   - start a beta blocker when patient's BPs are consistently no longer
   low.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-20**] 04:54 PM 59.[**Telephone/Fax (5) 26**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-06-23 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-6-22**] 11:01 AM
   extubated in am
   4L neg, transitioned from lasix gtt to bolus
   Vanco DC'd
   Per surgery - hold on starting po's until am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-22**] 08:00 AM
   Metronidazole - [**2125-6-22**] 11:50 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-6-22**] 07:56 PM
   Metoprolol - [**2125-6-23**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-23**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 74 (72 - 100) bpm
   BP: 127/58(82) {103/46(66) - 184/106(130)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 109.2 kg
   Height: 74 Inch
    CVP: 8 (3 - 12)mmHg
   Total In:
                                                                  2,919 mL
                                                                    659 mL
   PO:
   TF:
   IVF:
                                                                  1,133 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  6,940 mL
                                                                    700 mL
   Urine:
                                                                  6,560 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,021 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 608 (608 - 608) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 12.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Absent), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, vertical incision c/d/i
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   338 K/uL
   9.8 g/dL
   154 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   24 mg/dL
   99 mEq/L
   132 mEq/L
   28.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2125-6-20**]  09:23 PM
                             [**2125-6-21**]  04:20 AM
                             [**2125-6-21**]  10:09 AM
                             [**2125-6-21**]  01:39 PM
                             [**2125-6-21**]  04:17 PM
                             [**2125-6-21**]  09:04 PM
                             [**2125-6-22**]  04:25 AM
                             [**2125-6-22**]  05:19 AM
                             [**2125-6-22**]  06:18 PM
                             [**2125-6-23**]  05:30 AM
   WBC
   7.2
   8.0
   7.9
   7.9
   Hct
   28.8
   31.1
   29.6
   28.9
   Plt
   356
   345
   325
   338
   Cr
   0.8
   0.7
   0.7
   0.8
   0.8
   0.8
   0.7
   TCO2
   37
   38
   36
   Glucose
   141
   150
   135
   137
   135
   154
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:37/3/<0.01, ALT / AST:18/17, Alk Phos / T Bili:86/0.3,
   Differential-Neuts:92.0 %, Band:2.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:131 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   77 y/o M with critical AS, recent sigmoid colectomy [**2125-5-25**] [**2-24**]
   recurrent diverticulitis post op course c/b NSTEMI, ARF, re-admitted
   [**6-4**] with abdominal pain found to have pancolitis on CT and positive
   clostridium difficile toxin A and B , subsequent increasing large bowel
   distension concerning for toxic megacolon requiring [**Month/Year (2) 16**] resection
   [**2125-6-16**] with total colectomy and end ileostomy now being diursed for
   volume overload in setting of severe  AS.
    # Volume Overload.
 negative 1 liter thus far today, continue
   diuresis with goal negative 2-3 liters today.  CVP decreased to 4 but
   is being ventilated and has significant peripheral edema.
   -restart lasix drip at 5mg / hr
   -[**Hospital1 **] lytes
   # Respiratory: on PS 5/5, decrease to 5/0 and restart lasix drip as
   above.   Plan to extubate this a.m.   Surgery aware.
    # severe AS. Valve area 0.8cm. Tolerating diuresis well as above.
    #  NSTEMI: on ASA, hct 29.6, given volume overload recheck in a.m.
   rather than transfusing now, ideal goal will be HCT > 30 but will defer
   transfusion for now.
   -lopressor 12.5mg po tid added to regimen, can uptitrate as BP and HR
   tolerate
    # s/p total colectomy. POD # 5.  Currently stable, pain seems improved
   from day prior, await extubation for better assessment of pain.  On
   fentanyl 50mcg / hr currently.
   -fentanyl q2hrs prn
   - monitor ileostomy output
   -on TPN for nutrition, allow POs if extubated, if unable to extubate
   will need to replace NGT as patient has pulled out NGT
   - wound looks good
   - d/c vanc for wound ppx
   # C. diff colitis s/p colectomy. Cont Flagyl IV for 7 day course post
   vancomycin
   -last day for flagyl should be [**2125-6-29**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-22**] 04:08 PM 73 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-06-23 12:42:00 Physician Attending Progress Note
Chief Complaint: c diff s/p colectomy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-6-22**] 11:01 AM
   extubated
   vanco stopped
   [**Year (4 digits) 16**] team ready to take patient to floor
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-22**] 08:00 AM
   Metronidazole - [**2125-6-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-6-23**] 08:00 AM
   Metoprolol - [**2125-6-23**] 10:00 AM
   Other medications:
   SQH, SQI, ASA, PPI, Flagyl, acetazolamide, Lopressor, Lasix 40 mg IV
   q12h,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: [**3-27**] Mild
   Pain location: peri-incisional
   Flowsheet Data as of  [**2125-6-23**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 75 (72 - 94) bpm
   BP: 127/62(83) {103/46(66) - 177/106(118)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 109.2 kg
   Height: 74 Inch
   CVP: 12 (5 - 12)mmHg
   Total In:
                                                                  2,919 mL
                                                                  1,249 mL
   PO:
   TF:
   IVF:
                                                                  1,133 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  6,940 mL
                                                                  1,820 mL
   Urine:
                                                                  6,560 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,021 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Crackles :
   scant)
   Abdominal: incision C/D/I without surrounding erythema
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   338 K/uL
   154 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   24 mg/dL
   99 mEq/L
   132 mEq/L
   28.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2125-6-20**]  09:23 PM
                             [**2125-6-21**]  04:20 AM
                             [**2125-6-21**]  10:09 AM
                             [**2125-6-21**]  01:39 PM
                             [**2125-6-21**]  04:17 PM
                             [**2125-6-21**]  09:04 PM
                             [**2125-6-22**]  04:25 AM
                             [**2125-6-22**]  05:19 AM
                             [**2125-6-22**]  06:18 PM
                             [**2125-6-23**]  05:30 AM
   WBC
   7.2
   8.0
   7.9
   7.9
   Hct
   28.8
   31.1
   29.6
   28.9
   Plt
   356
   345
   325
   338
   Cr
   0.8
   0.7
   0.7
   0.8
   0.8
   0.8
   0.7
   TCO2
   37
   38
   36
   Glucose
   141
   150
   135
   137
   135
   154
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:37/3/<0.01, ALT / AST:18/17, Alk Phos / T Bili:86/0.3,
   Differential-Neuts:92.0 %, Band:2.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:131 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   77-year-old man with existing critical AS, now s/p colectomy and
   end-ileostomy for toxic megacolon from C. diff.  In addition, he had a
   recent admission that is summarized in the ICU team
s note.  He has
   improved substantially.  Major issues today:
   Respiratory failure
   -          resolved
   -          doing well extubated
   Volume overload
   -          diurese gently
   -          d/c acetazolamide
   Aortic stenosis (severe)
   -          Rate control
   Coronary disease
   -          s/p NSTEMI earlier this month
   -          ASA, beta blocker, statin
   s/p colectomy and ileostomy POD6
   - wound looks good
   - appreciated primary team
s help
   Pain control
   C. diff colitis s/p colectomy
   -          Cont Flagyl IV for 7 day course post vancomycin
   -          last day for flagyl should be [**2125-6-29**] as per prior plan
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-22**] 04:08 PM 73 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2125-6-16**] 04:37 PM
   Multi Lumen - [**2125-6-16**] 04:55 PM
   PICC Line - [**2125-6-16**] 04:59 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor

2125-06-24 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   called out to floor but no bed
   optimizing cardiac regimen
   received lasix x 3 doses, cosider changing regimen to tid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-22**] 08:00 AM
   Metronidazole - [**2125-6-23**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2125-6-23**] 10:00 AM
   Furosemide (Lasix) - [**2125-6-23**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-24**] 06:04 AM
   Morphine Sulfate - [**2125-6-24**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: Chest pain, 45 minutes chest pressure at rest, without
   radiation, L chest, no associated symptoms, relieved w/ pain
   medication.  did not feel like chest pain prior to previous cabg.
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2125-6-24**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 82 (71 - 85) bpm
   BP: 142/72(88) {103/41(58) - 146/73(88)} mmHg
   RR: 18 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 109.2 kg
   Height: 74 Inch
    CVP: 12 (7 - 12)mmHg
   Total In:
                                                                  2,569 mL
                                                                    563 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    592 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                    700 mL
   Urine:
                                                                  3,610 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,041 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   338 K/uL
   9.8 g/dL
   154 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.7 mEq/L
   24 mg/dL
   98 mEq/L
   135 mEq/L
   28.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2125-6-21**]  04:20 AM
                             [**2125-6-21**]  10:09 AM
                             [**2125-6-21**]  01:39 PM
                             [**2125-6-21**]  04:17 PM
                             [**2125-6-21**]  09:04 PM
                             [**2125-6-22**]  04:25 AM
                             [**2125-6-22**]  05:19 AM
                             [**2125-6-22**]  06:18 PM
                             [**2125-6-23**]  05:30 AM
                             [**2125-6-23**]  05:41 PM
   WBC
   8.0
   7.9
   7.9
   Hct
   31.1
   29.6
   28.9
   Plt
   [**Telephone/Fax (3) 32**]
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.7
   0.8
   TCO2
   37
   38
   36
   Glucose
   150
   135
   137
   135
   154
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:37/3/<0.01, ALT / AST:18/17, Alk Phos / T Bili:86/0.3,
   Differential-Neuts:92.0 %, Band:2.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:131 IU/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   77 y/o M with critical AS, recent sigmoid colectomy [**2125-5-25**] [**2-24**]
   recurrent diverticulitis post op course c/b NSTEMI, ARF, re-admitted
   [**6-4**] with abdominal pain found to have pancolitis on CT and positive
   clostridium difficile toxin A and B , subsequent increasing large bowel
   distension concerning for toxic megacolon requiring [**Month/Year (2) 16**] resection
   [**2125-6-16**] with total colectomy and end ileostomy now being diursed for
   volume overload in setting of severe  AS.
    # Volume Overload.
 negative 4 liter yesterday. Still 3L positive for
   LOS. Continue diuresis with goal negative 1-2L.
   - Continue diuresis w lasix [**Hospital1 **]
   -[**Hospital1 **] lytes
     # severe AS. Valve area 0.8cm. Tolerating diuresis well as above.
    #  NSTEMI: on ASA, hct 29.6. Uptitrate beta blocker for better BP and
   rate control. Add high dose statin.
    # s/p total colectomy. POD # 5.  Currently stable. Pain improved with
   IV morphine. Would looks clean without drainage.
   -          f/u surgery recs
   -          increase frequency of morphine to q3
   -          Change diet to clears
   -          Wound care
   # C. diff colitis s/p colectomy. Cont Flagyl IV for 7 day course post
   vancomycin
   -last day for flagyl should be [**2125-6-29**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-23**] 03:26 PM 70.[**Telephone/Fax (5) 29**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2125-6-16**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition: